US09029405B2
Step 2: tert-butyl 2-[(3-cyano-5-fluorobenzyl)amino]-4-methylpentanoate
To 3-(bromomethyl)-5-fluorobenzonitrile (4.0 g, 0.02 mol) in dry DMF (40 mL) were added sodium bicarbonate (3.9 g, 0.046 mol) and ethyl D-leucine tert-butyl ester hydrochloride (4.2 g, 0.019 mol). The reaction mixture was stirred at RT for 16 hours. It was diluted with water and extracted with ethyl acetate. The organic phase was washed with water, brine, dried and concentrated. The crude product was purified by chromatography using petroleum ether/ethyl acetate as eluent, affording the title compound as a colorless liquid. 1H NMR (DMSO-d6, 400 MHz): δ 7.68 (d, J=9.5 Hz, 1H), 7.63 (s, 1H), 7.53 (d, J=9.8 Hz, 1H), 3.78 (d, 1H), 3.64 (d, 1H), 2.97 (d, 1H), 2.60 (brs, 1H), 1.97-1.71 (m, 1H), 1.36 (m, 11H), 0.86 (d, 3H), 0.80 (d, 3H).

reactant | 3-(bromomethyl)-5-fluorobenzonitrile | 0.02 mol, 4.0 g | BrCC=1C=C(C#N)C=C(C1)F | C8H5BrFN
reactant | sodium bicarbonate | 0.046 mol, 3.9 g | C([O-])(O)=O.[Na+]
reactant | ethyl D-leucine tert-butyl ester hydrochloride | 0.019 mol, 4.2 g | Cl.C(C)(C)(C)OC([C@H](NCC)CC(C)C)=O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-butyl 2-[(3-cyano-5-fluorobenzyl)amino]-4-methylpentanoate | C(#N)C=1C=C(CNC(C(=O)OC(C)(C)C)CC(C)C)C=C(C1)F | C18H25FN2O2
